US08304557B2
N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide
To a solution of 6-methylpyridine-2-carboxylic acid (5.66 g, 41.3 mmol) in tetrahydrofuran (300 mL) were added N,N-dimethylformamide (5 drops) and oxalyl chloride (7.20 mL, 83.0 mmol) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in N,N-dimethylacetamide (200 mL). A solution of 5-(3-aminophenoxy)pyridin-2-amine (7.90 g, 39.3 mmol) in N,N-dimethylacetamide (20 mL) was added with stirring at room temperature, and the mixture was stirred at room temperature for 65 hr. The reaction mixture was diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was washed with ethyl acetate-hexane to give the title compound (10.4 g, 83%) as a pale-brown solid.

reactant | 6-methylpyridine-2-carboxylic acid | 41.3 mmol, 5.66 g | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
reactant | oxalyl chloride | 83.0 mmol, 7.20 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(3-aminophenoxy)pyridin-2-amine | 39.3 mmol, 7.90 g | NC=1C=C(OC=2C=CC(=NC2)N)C=CC1 | C11H11N3O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide | 10.4 g, 83% | NC1=CC=C(C=N1)OC=1C=C(C=CC1)NC(=O)C1=NC(=CC=C1)C | C18H16N4O2
